US05767270
To a stirring suspension of 1H-tetrazole (7.0 g, 0.1 mol) and triethylamine (15 ml, 0.12 mol) in anhydrous THF (300 ml), in a bath maintained at 0° C., was added benzoyl chloride (99%, 12.8 ml, 0.11 mol) slowly over 30 min. When addition was complete, the mixture was stirred for an additional 45 min. A precipitate formed, identified as triethylammonium hydrochloride (using NMR spectroscopy), was removed by filtration through a pad of Celite 545. The solvent was removed under reduced pressure while the bath temperature was maintained below 30° C. A residual oil was obtained. Crystallization of the residual oil in hexanes yielded N-benzoyltetrazole as colorless crystals. The crystals were removed by filtration, washed with hexanes (2×15 ml) and dried under vacuum for approximately 15 hours at room temperature. Yield: 15 g, 86%; m.p. 56-58iC; 1H NMR, (CDCl3) δ 9.43 (s, 1H), 8.26-8.22 (d, J=, 2H), 7.79-7.54 (m, 3H); 13C NMR, (CDCl3) 162.9, 143.7, 136.3, 132.7, 129.7 and 129.5. HRMS: (FAB) for C8H7N4O (MH+) 175.0620, found 175.0627.

reactant | 1H-tetrazole | 0.1 mol, 7.0 g | N1N=NN=C1 | CH2N4
reactant | triethylamine | 0.12 mol, 15 ml | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 0.11 mol, 12.8 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | triethylammonium hydrochloride | Cl.C(C)[NH+](CC)CC
solvent | THF | 300 ml | C1CCOC1 | C4H8O
product | N-benzoyltetrazole | C(C1=CC=CC=C1)(=O)N1N=NN=C1 | C8H6N4O
